US06545009B1
A mixture of methyl 4-[4-(4-chlorophenyl)-2-oxazolyl]benzoate (450 mg), a 1N aqueous solution of sodium hydroxide (2.5 ml), tetrahydrofuran (10 ml) and methanol (5 ml) was stirred at 60 to 70° C. for 20 minutes. The reaction mixture was poured into water. To the mixture was added 1N hydrochloric acid, and precipitated 4-[4-(4-chlorophenyl)-2-oxazolyl]benzoic acid (273 mg, Yield: 64%) was collected by filtration and then washed with water. The product was recrystallized from acetone-isopropyl ether to obtain pale yellow prisms. Melting Point: 283 to 284° C. (decomposition).

reactant | methyl 4-[4-(4-chlorophenyl)-2-oxazolyl]benzoate | 450 mg | ClC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(C(=O)OC)C=C1 | C17H12ClNO3
reactant | sodium hydroxide | 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 4-[4-(4-chlorophenyl)-2-oxazolyl]benzoic acid | 273 mg, Yield: 64% | ClC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(C(=O)O)C=C1 | C16H10ClNO3
